US05175157
3-[(N-(2-(4-Methoxy-benzo[b]thien-3-yl)-ethyl)-piperidin-3-yl)-methyl]-7,8-dimethoxy-2-oxo-1,3,4,5-tetrahydro-2H-3-benzazepine-hydrochloride
Prepared from 3-[(piperidin-3-yl)-methyl]-7,8-dimethoxy-2-oxo-1,3,4,5-tetrahydro-2H-3-benzazepine and 3-(2-chloroethyl)-4-methoxy-benzo[b]thiophene analogously to Example 1.

reactant | 3-[(piperidin-3-yl)-methyl]-7,8-dimethoxy-2-oxo-1,3,4,5-tetrahydro-2H-3-benzazepine | N1CC(CCC1)CN1CCC2=C(CC1=O)C=C(C(=C2)OC)OC | C18H26N2O3
reactant | 3-(2-chloroethyl)-4-methoxy-benzo[b]thiophene | ClCCC=1C2=C(SC1)C=CC=C2OC | C11H11ClOS
product | 3-[(N-(2-(4-Methoxy-benzo[b]thien-3-yl)-ethyl)-piperidin-3-yl)-methyl]-7,8-dimethoxy-2-oxo-1,3,4,5-tetrahydro-2H-3-benzazepine-hydrochloride | Cl.COC1=CC=CC=2SC=C(C21)CCN2CC(CCC2)CN2CCC1=C(CC2=O)C=C(C(=C1)OC)OC | InChI=1S/C29H36N2O4S.ClH/c1-33-24-7-4-8-27-29(24)22(19-36-27)9-12-30-11-5-6-20(17-30)18-31-13-10-21-14-25(34-2)26(35-3)15-23(21)16-28(31)32;/h4,7-8,14-15,19-20H,5-6,9-13,16-18H2,1-3H3;1H
